US07829560B2
3-Fluoro-N-{4-[(2-{[2-(1-methylpyrrolidin-2-yl)ethyl]amino}pyrimidin-4-yl)oxy]-1-naphthyl}-5-morpholin-4-ylbenzamide (Compound B344).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and 2-(1-methyl-pyrrolidin-2-yl)-ethylamine according to conditions described in general procedure C. Mp: 100-101° C., 1H NMR (400 MHz, DMSO-d6) δ 1.33-2.17 (m, 12 H), 2.88 (s, 2 H), 3.26 (t, J=4.4 Hz, 4 H), 3.77 (t, J=4.8 Hz, 4 H), 6.17-6.32 (bd, 1 H), 7.02-7.06 (m, 1 H), 7.12 (s, 1 H), 7.27 (d, J=8.7 Hz, 1 H), 7.40 (d, J=8.0 Hz, 1 H), 7.48 (s, 1 H), 7.55-7.61 (m, 3H), 7.82 (d, J=8.4 Hz, 1 H), 7.99 (d, J=7.7 Hz, 1 H), 8.23 (s, 1 H), 10.46 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | 2-(1-methyl-pyrrolidin-2-yl)-ethylamine | CN1C(CCC1)CCN | C7H16N2
product | 3-Fluoro-N-{4-[(2-{[2-(1-methylpyrrolidin-2-yl)ethyl]amino}pyrimidin-4-yl)oxy]-1-naphthyl}-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NCCC2N(CCC2)C)C=C(C1)N1CCOCC1 | C32H35FN6O3
